US08975417B2
Step 71.1: 3-hydrazinyl-2-methoxypyridine
To a stirred solution of 3-amino-2-methoxypyridine (5 g, 40.3 mmol) in 6N HCl (80 mL) was added dropwise a solution of NaNO2 (2.78 g, 40.3 mmol) in water (50 mL) at 0° C. After 30 min at this temperature, a solution of SnCl2.2H2O (22.72 g, 101 mmol) in 6N HCl (80 mL) was added dropwise at 0° C. The reaction mixture was stirred 90 min at 0° C. The reaction mixture was adjusted to pH˜10-11 with a solution of KOH 40% in water and extracted with EtOAc. The combined organic layers were washed with water, dried over Na2SO4 and evaporated under reduced pressure to afford the title product (4.97 g, 33.9 mmol, 84% yield) as red oil. tR: 0.31 min (LC-MS 2); ESI-MS: 140 [M+H]+ (LC-MS 2).

reactant | 3-amino-2-methoxypyridine | 40.3 mmol, 5 g | NC=1C(=NC=CC1)OC | C6H8N2O
reactant | NaNO2 | 40.3 mmol, 2.78 g | N(=O)[O-].[Na+]
reactant | SnCl2.2H2O | 101 mmol, 22.72 g | O.O.Cl[Sn]Cl
reactant | KOH | [OH-].[K+]
solvent | HCl | 6N, 80 mL | Cl | ClH
solvent | water | 50 mL | O | H2O
solvent | HCl | 6N, 80 mL | Cl | ClH
product | 3-hydrazinyl-2-methoxypyridine | 33.9 mmol, 4.97 g, 84% yield | N(N)C=1C(=NC=CC1)OC | C6H9N3O
